US04162246
2,2-Bis{4-[2-acetoxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 35)
A mixture of 4.0 g of 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane, obtained as described in Example 1, and 100 ml of acetic anhydride was heated at 120°-130° C. for 6 hours. The reaction mixture was then treated substantially as described in Example 13, to give the desired Compound No. 35 in the form of white crystals melting at 229°-237° C.

reactant | 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | 4.0 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H66N6O8
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-Bis{4-[2-acetoxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | C(C)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)OC(C)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C49H70N6O10
